US04306065
4-[3-(2-Methoxyphenoxy)-1-pyrrolidinyl]-2-phenylquinazoline
To a solution containing 150 ml of isopropanol and 4.8 g (0.025 mole) of 3-o-methoxyphenoxypyrrolidine was added, with stirring, 6.15 g (0.025 mole) of 4-chloro-2-phenylquinazoline. The reaction was exothermic and the mixture refluxed for 15 min. The temperature subsided to room temperature and, after standing at room temperature for 11/2 hr, the resulting reaction mixture was filtered. The crystalline solid was recrystallized with isopropanol. Yield of product was 1.9 g, m.p. 142°-144° C.

reactant | 3-o-methoxyphenoxypyrrolidine | 0.025 mole, 4.8 g | COC1=C(OC2CNCC2)C=CC=C1 | C11H15NO2
reactant | 4-chloro-2-phenylquinazoline | 0.025 mole, 6.15 g | ClC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 4-[3-(2-Methoxyphenoxy)-1-pyrrolidinyl]-2-phenylquinazoline | COC1=C(OC2CN(CC2)C2=NC(=NC3=CC=CC=C23)C2=CC=CC=C2)C=CC=C1 | C25H23N3O2
